US05811431
a) Methyl 2-(tert-butoxycarbonylamino)-3-(N-methyl-3,4-dichlorobenzylamino)propionate
Sodium cyanoborohydride (121 mg) was added to a solution of formaldehyde (570 mg), methyl 2-(tert-butoxycarbonylamino)-3-(3,4-dichlorobenzylamino)propionate (720 mg) and acetic acid (0.1 ml) in acetonitrile and the mixture was stirred at room temperature for 30 minutes. Aqueous sodium hydrogen carbonate (10 ml) was added and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colourless oil (722 mg). NMR δH (360 MHz, CDCl3) 1.45 (9H, s), 2.21 (3H, s), 2.73 (2H, d, J=7.0 Hz), 3.46 (2H, m), 3.75 (3H, s) 4.37 (1H, m), 5.19 (1H, br s), 7.10 (1H, dd, J=11.0 and 1.0 Hz), 7.36 (2H, m).

reactant | Sodium cyanoborohydride | 121 mg | C(#N)[BH3-].[Na+]
reactant | formaldehyde | 570 mg | C=O | CH2O
reactant | methyl 2-(tert-butoxycarbonylamino)-3-(3,4-dichlorobenzylamino)propionate | 720 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC)CNCC1=CC(=C(C=C1)Cl)Cl | C16H22Cl2N2O4
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-(tert-butoxycarbonylamino)-3-(N-methyl-3,4-dichlorobenzylamino)propionate | 722 mg | C(C)(C)(C)OC(=O)NC(C(=O)OC)CN(C)CC1=CC(=C(C=C1)Cl)Cl | C17H24Cl2N2O4
